US07528147B2
0.265 cm3 of 5N potassium hydroxide is added to a solution of 0.04 g of [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl](4-trifluoromethylsulfanylbenzyl)amine in 2 cm3 of methanol, at a temperature in the region of 20° C. The reaction medium is refluxed for 6 hours. After cooling, the reaction medium is concentrated under reduced pressure. The residue obtained is taken up in 4 cm3 of water. The solid formed is filtered off on a sinter funnel, washed twice with 3 cm3 of water and then dried under vacuum to give 0.030 g of [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl](4-trifluoromethylsulfanylbenzyl)amine, the characteristics of which are as follows:

reactant | potassium hydroxide | 5N, 0.265 cm3 | [OH-].[K+]
reactant | [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl](4-trifluoromethylsulfanylbenzyl)amine | 0.04 g | COC=1C=C2C(=CN(C2=CC1OC)C)C1=CC=2C(=NC=CC2CNCC2=CC=C(C=C2)SC(F)(F)F)N1S(=O)(=O)C1=CC=C(C=C1)C | C34H31F3N4O4S2
solvent | methanol | 2 cm3 | CO | CH4O
solvent | water | 4 cm3 | O | H2O
product | [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl](4-trifluoromethylsulfanylbenzyl)amine | 0.030 g | COC=1C=C2C(=CN(C2=CC1OC)C)C1=CC=2C(=NC=CC2CNCC2=CC=C(C=C2)SC(F)(F)F)N1 | C27H25F3N4O2S
